US09382188B2
B) (3,3-dimethylbutyl)(triphenyl)phosphonium methanesulfonate
3,3-Dimethylbutyl methanesulfonate (36.5 g) and triphenylphosphine (53.1 g) were stirred at 120° C. for 15 hr to give the title compound (88.0 g) as a white gummy substance.

reactant | 3,3-Dimethylbutyl methanesulfonate | 36.5 g | CS(=O)(=O)OCCC(C)(C)C | C7H16O3S
reactant | triphenylphosphine | 53.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (3,3-dimethylbutyl)(triphenyl)phosphonium methanesulfonate | 88.0 g | CS(=O)(=O)[O-].CC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | InChI=1S/C24H28P.CH4O3S/c1-24(2,3)19-20-25(21-13-7-4-8-14-21,22-15-9-5-10-16-22)23-17-11-6-12-18-23;1-5(2,3)4/h4-18H,19-20H2,1-3H3;1H3,(H,2,3,4)/q+1;/p-1
